US06218393B1
Imidazole (1.8 g, 26.1 mmol) and tert-butyldimethylsilyl chloride (3.95 g, 26.1 mmol) were added to a solution of the commercially available 5-hydroxyanthranilic acid (1.0 g, 6.54 mmol) in dimethylformamide (40 ml) while cooling in an ice/water bath. The mixture was allowed to warm to room temperature and stirred for 18 hours. Aqueous work-up afforded an impure sample of 2-amino-5-(tert-butyl-dimethyl-silanyloxy)-benzoic acid (1.74 g) that was used in Step (ii) without further purification.

reactant | Imidazole | 26.1 mmol, 1.8 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 26.1 mmol, 3.95 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 5-hydroxyanthranilic acid | 6.54 mmol, 1.0 g | OC1=CC=C(C(C(=O)O)=C1)N | C7H7NO3
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 2-amino-5-(tert-butyl-dimethyl-silanyloxy)-benzoic acid | 1.74 g | NC1=C(C(=O)O)C=C(C=C1)O[Si](C)(C)C(C)(C)C | C13H21NO3Si
